US08389720B2
N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-(2-phenyl-2-piperidin-4-ylethyl)cyclohexanecarboxamide
tert-butyl 4-(2-{(cyclohexylcarbonyl) [(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate (1.63 g, 2.78 mmol) in CH2Cl2 (5 ml) was added to 4 M HCl in dioxane (20 mL, 80 mmol) at 0° C. and the reaction stirred for 1.5 hours before being poured into satd. bicarb. The mixture was partitioned between CH2Cl2 and satd. bicarb, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. 1.35 g, 100%.

reactant | tert-butyl 4-(2-{(cyclohexylcarbonyl) [(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate | 2.78 mmol, 1.63 g | C1(CCCCC1)C(=O)N(CC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)CC=1C(N(C2=CC=CC=C2C1)C)=O | C36H47N3O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 80 mmol, 20 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]-N-(2-phenyl-2-piperidin-4-ylethyl)cyclohexanecarboxamide | CN1C(C(=CC2=CC=CC=C12)CN(C(=O)C1CCCCC1)CC(C1CCNCC1)C1=CC=CC=C1)=O | C31H39N3O2
